US05767285
A solution of 41 mg (0.12 mmol) of 1-[10-(6-hydroxyhexyl)-10H-phenothiazin-2-yl]ethanone in 0.16 mL of N,N-dimethylformamide is treated with 158 mg (0.42 mmol) of pyridinium dichromate and stirred at room temperature for 12 hours. The mixture is diluted with ether and filtered through a pad of celite with the aid of 100 mL of ether. The filtrate is washed successively with 10% sodium bisulfate solution and saturated sodium chloride solution, then dried over magnesium sulfate and concentrated in vacuo to give 10 mg (23%) of 2-acetyl-10H-phenothiazine-10-hexanoic acid as a dark residue. The 1 H NMR (300 MHz, CDCl3) is consistent with the desired product. MS (CI) m/e 323 (M+ +H).

reactant | 1-[10-(6-hydroxyhexyl)-10H-phenothiazin-2-yl]ethanone | 0.12 mmol, 41 mg | OCCCCCCN1C2=CC=CC=C2SC=2C=CC(=CC12)C(C)=O | C20H23NO2S
reactant | pyridinium dichromate | 0.42 mmol, 158 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | N,N-dimethylformamide | 0.16 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-10H-phenothiazine-10-hexanoic acid | 10 mg, 23% | C(C)(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCCC(=O)O | C20H21NO3S
